US09446034B2
To a solution of 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-3-fluorobenzoic acid (3.2 g, 7.92 mmol) in N,N-dimethylformamide (DMF) (50 mL) was added HOBT (1.456 g, 9.51 mmol) and EDC (1.823 g, 9.51 mmol) and the reaction mixture was stirred for 30 min. To this solution was added O-methoxylamine hydrochloride (0.794 g, 9.51 mmol). After 30 min the reaction mixture was cooled to 0° C. and DIEA (4.14 mL, 23.77 mmol) was added. The reaction mixture was stirred at the room temperature 24 hr. Water (100 mL) was added followed by acetic acid (1 mL) and the solution was extracted with 2×50 ml of ethyl acetate. The combined organic layers were washed with 2×50 ml sat KHCO3, brine, dried over MgSO4 and evaporated. The oil was suspended in dichloromethane and filtered. 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-3-fluoro-N-(methyloxy)benzamide (1.1 g, 2.414 mmol, 30.5% yield) was isolated as a white solid; 1H NMR (400 MHz, DMSO-d6) ppm 1.24 (d, J=6.57 Hz, 6 H) 2.08 (s, 3 H) 3.68 (s, 3 H) 4.33 (quin, J=6.57 Hz, 1 H) 5.83 (d, J=5.05 Hz, 1 H) 5.84 (s, 1 H) 7.30-7.49 (m, 2 H) 7.49-7.63 (m, 1 H) 7.92 (s, 1 H) 8.41 (d, J=4.29 Hz, 2 H) 11.85 (s, 1 H); HPLC Rt=2.18 min, MS (ESI): 433.3 [M+H]+.

reactant | 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-3-fluorobenzoic acid | 7.92 mmol, 3.2 g | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)O)C=CC=C1F | C19H19ClFN5O2
reactant | HOBT | 9.51 mmol, 1.456 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 9.51 mmol, 1.823 g
reactant | DIEA | 23.77 mmol, 4.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | Water | 100 mL | O | H2O
product | 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-3-fluoro-N-(methyloxy)benzamide | 2.414 mmol, 1.1 g, 30.5% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)NOC)C=CC=C1F | C20H22ClFN6O2
